US05977139
Combine 1-benzyl-4-(pyrid-3-yl)-4-cyanopiperidine hydrochloric acid salt (10.0 g, 28 mmol), sodium hydroxide (7.6 g, 190 mmol), and water (2 mL) in ethylene glycol (120 mL). Heat to reflux. After 15 hours, evaporate in vacuo to give a residue. Combine the residue with methanol (20 mL) and ethanol (20 mL) and stir to give a solid. Filter to remove the solid. Add ethanol (50 mL) to the filtrate and stir for 1 hour to give a second solid. Remove the second solid by filtration and acidify the filtrate with aqueous 12M hydrochloric acid solution. Evaporate the acidified filtrate in vacuo to give a residue. Combine the residue and dichloromethane. Extract with water. Adjust the pH of the aqueous layer to 7 using sodium bicarbonate. Evaporate the aqueous layer in vacuo to give a residues combine the residue and ethanol and again evaporate in vacuo to give a residue. Combine the residue with methanol and heat to about 50° C. to give a slurryb. Filter the slurry add acetone (30 mL) to the filtrate to give a solid. Collect the solid by filtration, rinse with acetone, and dry to give 1-benzyl-4-(pyrid-3-yl)-piperidine-4-carboxylic acid.

reactant | 1-benzyl-4-(pyrid-3-yl)-4-cyanopiperidine hydrochloric acid salt | 28 mmol, 10.0 g | Cl.C(C1=CC=CC=C1)N1CCC(CC1)(C#N)C=1C=NC=CC1
reactant | sodium hydroxide | 190 mmol, 7.6 g | [OH-].[Na+]
reactant | water | 2 mL | O | H2O
solvent | ethylene glycol | 120 mL | C(CO)O | C2H6O2
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | methanol | 20 mL | CO | CH4O
product | 1-benzyl-4-(pyrid-3-yl)-piperidine-4-carboxylic acid | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)O)C=1C=NC=CC1 | C18H20N2O2
